US06180625B2
6-Methyl-2-(2-trifluoromethoxy-phenyl)-4H-3,1-benzoxazin-4-one (4).
2-Amino-5-methylbenzoic acid (0.5 g) and triethyl amine (10 ml) were mixed in dry toluene (20 ml). 2-Trifluoromethoxybenzoyl chloride (1.64 g) was added dropwise under cooling and stirring. The mixture was subsequently heated to RT for 2 days.

reactant | 2-Amino-5-methylbenzoic acid | 0.5 g | NC1=C(C(=O)O)C=C(C=C1)C | C8H9NO2
reactant | triethyl amine | 10 ml | C(C)N(CC)CC | C6H15N
reactant | 2-Trifluoromethoxybenzoyl chloride | 1.64 g | FC(OC1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 6-Methyl-2-(2-trifluoromethoxy-phenyl)-4H-3,1-benzoxazin-4-one | CC=1C=CC2=C(C(OC(=N2)C2=C(C=CC=C2)OC(F)(F)F)=O)C1 | C16H10F3NO3
